US06891066B2
To a stirring solution of the product of Example 33, Step C, N-(2,2-dimethyl-[1,3]dioxan-5-yloxy)-2-(4-ethyl-2-fluoro-phenylamino)-3,4-difluoro-benzamide (0.416 g, 0.980 mmol) in ethanol (5 mL) was added 1 molar aqueous hydrochloric acid solution (1 mL). After stirring for 1 hour at ambient temperature the reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed twice with water and twice with brine. The organic layer was collected, dried over sodium sulfate, filtered and concentrated in vacuo. The affording foam was crystallized in ethyl acetate and heptane to afford 2-(4-ethyl-2-fluoro-phenylamino)-3,4-difluoro-N-(2-hydroxy-1-hydroxymethyl-ethoxy)-benzamide (0.318 g, 84.6%) as a white crystalline solid: m.p. 91-93° C.; 1 NMR (400 MHz; CD3OD) δ 7.38 (1 H, t, J=6.8 Hz), 6.85-6.96 (3 H, m), 6.73-6.78 (1 H, m), 3.86-3.82 (1 H), 3.64 (4 H, d, J=4.9 Hz), 2.58 (2 H, q, J=15.1, 7.6 Hz), 1.19 (3 H, t, J=7.6 Hz); 19F-NMR (376 MHz; CD3OD) δ −132.4, −134.6, −147.2; MS(APCI+)=385; Anal.calcd/found for C18H19F3N2O4: C, 56.25/56.38; H, 4.98/4.81; N, 7.29/7.25.

reactant | N-(2,2-dimethyl-[1,3]dioxan-5-yloxy)-2-(4-ethyl-2-fluoro-phenylamino)-3,4-difluoro-benzamide | 0.980 mmol, 0.416 g | CC1(OCC(CO1)ONC(C1=C(C(=C(C=C1)F)F)NC1=C(C=C(C=C1)CC)F)=O)C | C21H23F3N2O4
reactant | hydrochloric acid | 1 molar, 1 mL | Cl | ClH
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 2-(4-ethyl-2-fluoro-phenylamino)-3,4-difluoro-N-(2-hydroxy-1-hydroxymethyl-ethoxy)-benzamide | 0.318 g, 84.6% | C(C)C1=CC(=C(C=C1)NC1=C(C(=O)NOC(CO)CO)C=CC(=C1F)F)F | C18H19F3N2O4
